* Equivalent circuit model for E:\touchstone_files\single_88_um.ckt
.SUBCKT single_88_um po1 po2
Vsp1 po1 p1 0
Vsr1 p1 pr1 0
Rp1 pr1 0 50
Ru1 u1 0 50
Fr1 u1 0 Vsr1 -1
Fu1 u1 0 Vsp1 -1
Ry1 y1 0 1
Gy1 p1 0 y1 0 -0.02
Vsp2 po2 p2 0
Vsr2 p2 pr2 0
Rp2 pr2 0 50
Ru2 u2 0 50
Fr2 u2 0 Vsr2 -1
Fu2 u2 0 Vsp2 -1
Ry2 y2 0 1
Gy2 p2 0 y2 0 -0.02
Rx1 x1 0 1
Fxc1_2 x1 0 Vx2 1.27947970783517
Cx1 x1 xm1 1.52209960125857e-13
Vx1 xm1 0 0
Gx1_1 x1 0 u1 0 -0.64097625907112
Rx2 x2 0 1
Fxc2_1 x2 0 Vx1 -1.29157511580885
Cx2 x2 xm2 1.52209960125857e-13
Vx2 xm2 0 0
Gx2_1 x2 0 u1 0 0.827868986040508
Rx3 x3 0 1
Cx3 x3 0 3.80532354621151e-13
Gx3_1 x3 0 u1 0 -0.804451002684078
Rx4 x4 0 1
Cx4 x4 0 3.80015989953709e-12
Gx4_1 x4 0 u1 0 -0.00554920746594307
Rx5 x5 0 1
Fxc5_6 x5 0 Vx6 1.27696584811367
Cx5 x5 xm5 1.52209960125857e-13
Vx5 xm5 0 0
Gx5_2 x5 0 u2 0 -0.641419383308047
Rx6 x6 0 1
Fxc6_5 x6 0 Vx5 -1.29411773561792
Cx6 x6 xm6 1.52209960125857e-13
Vx6 xm6 0 0
Gx6_2 x6 0 u2 0 0.830072199908051
Rx7 x7 0 1
Cx7 x7 0 3.80532354621151e-13
Gx7_2 x7 0 u2 0 -0.802684492429813
Rx8 x8 0 1
Cx8 x8 0 3.80015989953709e-12
Gx8_2 x8 0 u2 0 -0.00532532160008747
Gyc1_1 y1 0 x1 0 -0.161905564012357
Gyc1_2 y1 0 x2 0 0.114537733700657
Gyc1_3 y1 0 x3 0 0.232748806993075
Gyc1_4 y1 0 x4 0 1
Gyc1_5 y1 0 x5 0 1
Gyc1_6 y1 0 x6 0 1
Gyc1_7 y1 0 x7 0 -1
Gyc1_8 y1 0 x8 0 -0.110924893501539
Gyc2_1 y2 0 x1 0 1
Gyc2_2 y2 0 x2 0 1
Gyc2_3 y2 0 x3 0 -1
Gyc2_4 y2 0 x4 0 -0.108433066983841
Gyc2_5 y2 0 x5 0 -0.15865694498767
Gyc2_6 y2 0 x6 0 0.119825320588235
Gyc2_7 y2 0 x7 0 0.236667367401427
Gyc2_8 y2 0 x8 0 1
.ENDS
