* Equivalent circuit model for E:\touchstone_files\100_um.ckt
.SUBCKT 100_um po1 po2
Vsp1 po1 p1 0
Vsr1 p1 pr1 0
Rp1 pr1 0 50
Ru1 u1 0 50
Fr1 u1 0 Vsr1 -1
Fu1 u1 0 Vsp1 -1
Ry1 y1 0 1
Gy1 p1 0 y1 0 -0.02
Vsp2 po2 p2 0
Vsr2 p2 pr2 0
Rp2 pr2 0 50
Ru2 u2 0 50
Fr2 u2 0 Vsr2 -1
Fu2 u2 0 Vsp2 -1
Ry2 y2 0 1
Gy2 p2 0 y2 0 -0.02
Rx1 x1 0 1
Fxc1_2 x1 0 Vx2 1.40358125368063
Cx1 x1 xm1 1.6464153712194e-13
Vx1 xm1 0 0
Gx1_1 x1 0 u1 0 -0.7295944039138
Rx2 x2 0 1
Fxc2_1 x2 0 Vx1 -1.08757717903441
Cx2 x2 xm2 1.6464153712194e-13
Vx2 xm2 0 0
Gx2_1 x2 0 u1 0 0.793490223647863
Rx3 x3 0 1
Cx3 x3 0 4.05102860886601e-13
Gx3_1 x3 0 u1 0 -0.927859493944416
Rx4 x4 0 1
Cx4 x4 0 3.91829518597062e-12
Gx4_1 x4 0 u1 0 -0.00702365924098859
Rx5 x5 0 1
Fxc5_6 x5 0 Vx6 1.40121936939148
Cx5 x5 xm5 1.6464153712194e-13
Vx5 xm5 0 0
Gx5_2 x5 0 u2 0 -0.730040228460296
Rx6 x6 0 1
Fxc6_5 x6 0 Vx5 -1.08941039052756
Cx6 x6 xm6 1.6464153712194e-13
Vx6 xm6 0 0
Gx6_2 x6 0 u2 0 0.795313410387762
Rx7 x7 0 1
Cx7 x7 0 4.05102860886601e-13
Gx7_2 x7 0 u2 0 -0.926487447163517
Rx8 x8 0 1
Cx8 x8 0 3.91829518597062e-12
Gx8_2 x8 0 u2 0 -0.00678214004487433
Gyc1_1 y1 0 x1 0 -0.153612997655848
Gyc1_2 y1 0 x2 0 0.161502643468661
Gyc1_3 y1 0 x3 0 0.244732502483446
Gyc1_4 y1 0 x4 0 1
Gyc1_5 y1 0 x5 0 1
Gyc1_6 y1 0 x6 0 1
Gyc1_7 y1 0 x7 0 -1
Gyc1_8 y1 0 x8 0 0.419305935491393
Gyc2_1 y2 0 x1 0 1
Gyc2_2 y2 0 x2 0 1
Gyc2_3 y2 0 x3 0 -1
Gyc2_4 y2 0 x4 0 0.400041959016443
Gyc2_5 y2 0 x5 0 -0.150988782934595
Gyc2_6 y2 0 x6 0 0.166940420309279
Gyc2_7 y2 0 x7 0 0.2482074975748
Gyc2_8 y2 0 x8 0 1
.ENDS
