* Equivalent circuit model for E:\touchstone_files\PA_matching_net_3_test.ckt
.SUBCKT PA_matching_net_3_test po1 po2
Vsp1 po1 p1 0
Vsr1 p1 pr1 0
Rp1 pr1 0 50
Ru1 u1 0 50
Fr1 u1 0 Vsr1 -1
Fu1 u1 0 Vsp1 -1
Ry1 y1 0 1
Gy1 p1 0 y1 0 -0.02
Vsp2 po2 p2 0
Vsr2 p2 pr2 0
Rp2 pr2 0 50
Ru2 u2 0 50
Fr2 u2 0 Vsr2 -1
Fu2 u2 0 Vsp2 -1
Ry2 y2 0 1
Gy2 p2 0 y2 0 -0.02
Rx1 x1 0 1
Fxc1_2 x1 0 Vx2 0.0565754651067668
Cx1 x1 xm1 3.08488663335815e-13
Vx1 xm1 0 0
Gx1_1 x1 0 u1 0 -0.470724579964014
Rx2 x2 0 1
Fxc2_1 x2 0 Vx1 -4.62029124303786
Cx2 x2 xm2 3.08488663335815e-13
Vx2 xm2 0 0
Gx2_1 x2 0 u1 0 2.17488465469041
Rx3 x3 0 1
Fxc3_4 x3 0 Vx4 3.71913434514754
Cx3 x3 xm3 3.20836887110806e-13
Vx3 xm3 0 0
Gx3_1 x3 0 u1 0 -0.441717608721278
Rx4 x4 0 1
Fxc4_3 x4 0 Vx3 -1.17614350937503
Cx4 x4 xm4 3.20836887110806e-13
Vx4 xm4 0 0
Gx4_1 x4 0 u1 0 0.519523298474189
Rx5 x5 0 1
Fxc5_6 x5 0 Vx6 15.9590435703904
Cx5 x5 xm5 6.59140873247311e-14
Vx5 xm5 0 0
Gx5_1 x5 0 u1 0 -0.012066654930128
Rx6 x6 0 1
Fxc6_5 x6 0 Vx5 -4.33809090261916
Cx6 x6 xm6 6.59140873247311e-14
Vx6 xm6 0 0
Gx6_1 x6 0 u1 0 0.0523462459774331
Rx7 x7 0 1
Cx7 x7 0 4.77044855262231e-12
Gx7_1 x7 0 u1 0 -2.18044431538758
Rx8 x8 0 1
Fxc8_9 x8 0 Vx9 0.0219077565457313
Cx8 x8 xm8 3.08488663335815e-13
Vx8 xm8 0 0
Gx8_2 x8 0 u2 0 -0.331024679594248
Rx9 x9 0 1
Fxc9_8 x9 0 Vx8 -11.9316245576282
Cx9 x9 xm9 3.08488663335815e-13
Vx9 xm9 0 0
Gx9_2 x9 0 u2 0 3.94966219622775
Rx10 x10 0 1
Fxc10_11 x10 0 Vx11 0.98297757996058
Cx10 x10 xm10 3.20836887110806e-13
Vx10 xm10 0 0
Gx10_2 x10 0 u2 0 -0.572886308568234
Rx11 x11 0 1
Fxc11_10 x11 0 Vx10 -4.44998523843691
Cx11 x11 xm11 3.20836887110806e-13
Vx11 xm11 0 0
Gx11_2 x11 0 u2 0 2.54933561643126
Rx12 x12 0 1
Fxc12_13 x12 0 Vx13 74.5454921725956
Cx12 x12 xm12 6.59140873247311e-14
Vx12 xm12 0 0
Gx12_2 x12 0 u2 0 -0.058374653159355
Rx13 x13 0 1
Fxc13_12 x13 0 Vx12 -0.928718554395226
Cx13 x13 xm13 6.59140873247311e-14
Vx13 xm13 0 0
Gx13_2 x13 0 u2 0 0.0542136234954788
Rx14 x14 0 1
Cx14 x14 0 4.77044855262231e-12
Gx14_2 x14 0 u2 0 -0.846508471866667
Gyc1_1 y1 0 x1 0 -1
Gyc1_2 y1 0 x2 0 -1
Gyc1_3 y1 0 x3 0 -0.158292080984938
Gyc1_4 y1 0 x4 0 0.817501528290574
Gyc1_5 y1 0 x5 0 0.300901494580023
Gyc1_6 y1 0 x6 0 0.40852802524582
Gyc1_7 y1 0 x7 0 -1
Gyc1_8 y1 0 x8 0 -1
Gyc1_9 y1 0 x9 0 0.12148498629406
Gyc1_10 y1 0 x10 0 0.767095489355792
Gyc1_11 y1 0 x11 0 0.203764008979013
Gyc1_12 y1 0 x12 0 -0.206721648291599
Gyc1_13 y1 0 x13 0 -1
Gyc1_14 y1 0 x14 0 1
Gyc2_1 y2 0 x1 0 -0.717634785875172
Gyc2_2 y2 0 x2 0 0.217587079799125
Gyc2_3 y2 0 x3 0 1
Gyc2_4 y2 0 x4 0 1
Gyc2_5 y2 0 x5 0 -1
Gyc2_6 y2 0 x6 0 -1
Gyc2_7 y2 0 x7 0 0.387910469005846
Gyc2_8 y2 0 x8 0 0.158967469976598
Gyc2_9 y2 0 x9 0 1
Gyc2_10 y2 0 x10 0 1
Gyc2_11 y2 0 x11 0 -1
Gyc2_12 y2 0 x12 0 1
Gyc2_13 y2 0 x13 0 -0.5504327862661
Gyc2_14 y2 0 x14 0 -0.364808943472391
.ENDS
